US07777047B2
N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
A mixture of N-methyl-N-{2-[5-(thiomorpholinomethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (0.35 g), sodium percarbonate (0.33 g), acetonitrile (6 ml) and water (2 ml) was stirred at 40° C. for 30 min. Sodium percarbonate (0.15 g) was added, and the mixture was further stirred at 40° C. for 1 hr. Water was added to the reaction mixture, and the resulting crystals were collected by filtration, washed with water, and dried. The obtained crystals were subjected to silica gel short column to give the title compound (0.28 g, yield 76%) as colorless crystals from a fraction eluted with tetrahydrofuran-hexane (3:1, volume ratio). melting point 225-226° C.

reactant | N-methyl-N-{2-[5-(thiomorpholinomethyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 0.35 g | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CN1CCSCC1 | C21H22N4O2S4
reactant | sodium percarbonate | 0.33 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
reactant | Sodium percarbonate | 0.15 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | Water | O | H2O
reactant | water | 2 ml | O | H2O
product | N-(2-{5-[(1,1-dioxidothiomorpholino)methyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 0.28 g, yield 76% | O=S1(CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C21H22N4O4S4
